US08168658B2
To a solution of tert-butyl 4-{1-[(dimethylamino)methyl]-2-methoxy-2-oxoethyl}benzoate (859 mg, 2.79 mmol) in THF (9 mL) and MeOH (3 mL) was added KOH (1N, 2.93 mL, 2.93 mmol). The reaction was stirred at room temperature for 30 minutes. An additional 100 μL of 1N KOH was added, and the solution was stirred for another 30 minutes. Concentration of the reaction mixture to dryness yielded potassium 2-[4-(tert-butoxycarbonyl)phenyl]-3-(dimethylamino)propanoate as a white solid that was carried on without purification. MS (EST) calcd [M+H]+ 294.1, found 294.1.

reactant | tert-butyl 4-{1-[(dimethylamino)methyl]-2-methoxy-2-oxoethyl}benzoate | 2.79 mmol, 859 mg | CN(C)CC(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H25NO4
reactant | KOH | 2.93 mmol, 1N, 2.93 mL | [OH-].[K+]
reactant | KOH | 1N, 100 μL | [OH-].[K+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | potassium 2-[4-(tert-butoxycarbonyl)phenyl]-3-(dimethylamino)propanoate | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)[O-])CN(C)C.[K+] | InChI=1S/C16H23NO4.K/c1-16(2,3)21-15(20)12-8-6-11(7-9-12)13(14(18)19)10-17(4)5;/h6-9,13H,10H2,1-5H3,(H,18,19);/q;+1/p-1
